US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-3-methoxy-phenyl)-4-tert-butyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 131 mg of ((6-Amino-3-chloro-2-methoxy-phenyl)-phenyl-methanone and 116 mg of 4-tert-butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.23 (s, 9H), 3.74 (s, 3H), 6.73 (d, 1H, J=2.8 Hz), 7.16 (dd, 1H, J=9.2 Hz, 3.2 Hz), 7.33 (d, 2H, J=8.4 Hz), 7.50 (d, 2H, J=6.0 Hz), 7.56 (d, 2H, J=8.8 Hz), 7.68 (d, 1H, J=9.2 Hz), 8.82 (d, 2H, J=6.4 Hz), 9.38 (s, 1H). MS: m/z 458.1 (M++1).

reactant | (6-Amino-3-chloro-2-methoxy-phenyl)-phenyl-methanone | NC1=CC=C(C(=C1C(=O)C1=CC=CC=C1)OC)Cl | C14H12ClNO2
reactant | 4-tert-butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | N-(2-Benzoyl-4-chloro-3-methoxy-phenyl)-4-tert-butyl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1OC)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C24H24ClNO4S
